US04537892
Synthesis substrates 4H-indeno[1,2-c]thiophen-4-one and 4H-indeno [1,2-c]thiophene and their derivatives are prepared in accordance with MacDowell and Jefferies, J. Org. Chem., 35, 871 (1970). Wherein treatment of 4-bromo-3-thienyllithium with a commonly available lower alkyl substituted cyclohexanone or cyclohexanone, such as 4-methylcyclohexanone, at -65° to -75° C. yields the corresponding cyclohexanol derivative which is dehydrated with para-toluenesulfonic acid in refluxing benzene or toluene to yield a cyclohexylthiophene product such as 3-bromo-4-(4-methyl-1'-cyclohexenyl)thiophene. Dehydrogenation with tetrachlorobenzoquinone in refluxing xylene for 8-24 hours yields the corresponding 3-bromo-4-phenylthiophene, e.g., 3-bromo-4-(4'-methylphenyl)thiophene. After purification by sublimation and/or chromatography over alumina, the bromide is subjected to halogen-metal exchange at -65° to -75° C. with n-butyllithium in ether, followed by carbonation with carbon dioxide. The isolated 3-phenyl-thiophene-4-carboxylic acid derivative, e.g., 3-(4'-methylphenyl)thiophene-4-carboxylic acid, is converted with thionyl chloride to the acid halide. Ring closure to the ketone via heating the aroyl chloride and aluminum chloride in carbon disulfide for 18-36 hours yields the corresponding ketone, such as 6-methyl-8H-indeno[1,2-c] thiophen-8-one. This 8-one derivative, which may be further derivatized according to Method V, is converted (in accordance with Method I) into a hydantoin derivative. Wolff-Kishner reduction (Method VIII) of the 8-one derivative (and optional derivatization according to Method V) and spiro-derivatization in accordance with Methods II, III and IV yields the corresponding spiro-thiazolidinedione, spiro-oxazolidinedione and spiro-succinimide derivatives respectively. These spiro-derivatives may be further derivatized according to Method VI.

reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cyclohexylthiophene | C1(CCCCC1)C=1SC=CC1 | C10H14S
